US06828317B2
{3-[3-Fluoro-4-(5-oxo-5,6-dihydro-4H-[1,3,4]thiadiazin-2-yl)-phenyl]-2-oxo-oxazolidin-5(S)-ylmethyl}-urea
Trimethylsilyl isocyanate (0.138 ml, 1.02 mmol) is added to a mixture of 2-[4-(5(S)-aminomethyl-2-oxo-oxazolidin-3-yl)-2-fluorophenyl]-4H-[1,3,4] thiadiazin-5-one (0.30 g, 0.925 mmol) in THF (10 ml). The mixture is stirred at room temperature overnight and then is evaporated to dryness. The residue is purified by PTLC (10% MeOH/DCM) to give product as a white solid (0.22 g, 65%); 1HNMR (300 MHz, DMSO-d6) δ 3.29-3.36 (m, 2H), 3.59 (s, 2H), 3.78 (dd, J=6.3, 9.1 Hz, 1H), 4.13 (t, J=9.1 Hz, 1H), 4.69-4.77 (m, 1H), 5.58 (s, 1H), 6.31 (t, J=6.0 Hz, 1H), 7.42 (dd, J=2.2, 8.8 Hz, 1H), 7.59 (dd, J=2.2, 14 Hz, 1H), 7.68 (t, J=8.8 Hz, 1H), 11.6 (s, 1H); mp 235-6; MS (m/z): [M+H]+=368.

reactant | Trimethylsilyl isocyanate | 1.02 mmol, 0.138 ml | C[Si](C)(C)N=C=O | C4H9NOSi
reactant | 2-[4-(5(S)-aminomethyl-2-oxo-oxazolidin-3-yl)-2-fluorophenyl]-4H-[1,3,4] thiadiazin-5-one | 0.925 mmol, 0.30 g | NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C=1SCC(NN1)=O)F | C13H13FN4O3S
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | {3-[3-Fluoro-4-(5-oxo-5,6-dihydro-4H-[1,3,4]thiadiazin-2-yl)-phenyl]-2-oxo-oxazolidin-5(S)-ylmethyl}-urea | 0.22 g, 65% | FC=1C=C(C=CC1C=1SCC(NN1)=O)N1C(O[C@H](C1)CNC(=O)N)=O | C14H14FN5O4S
